data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(Cl)c1Cl.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1Cl"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1Cl", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1Cl.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2Cl)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(Cl)c1Cl"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(Cl)c1Cl", "products": "COc1cc2c(c(Cl)c1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(Cl)c1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(Cl)c1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(Cl)c1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(Cl)c1Cl)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(Cl)c1Cl)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(Cl)c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC1OC2OC1C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "COC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2.[O-]C", "products": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "COC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2", "products": "COC1OC2OC1C1C(=O)C21"}, {"reactants": "COC1OC2OC1C1C(=O)C21.[O-]C", "products": "COC1OC2OC1C1C2C1([O-])OC"}, {"reactants": "COC1OC2OC1C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2OC1OC2OC"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1F.[Pd]", "products": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1F"}, {"reactants": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1F", "products": "COc1ccc2c(c1F)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1ccc2c(c1F)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1ccc2c(c1F)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(Cl)C(OC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(Cl)C1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(Cl)C1(OC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1(OC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(Cl)C1(OC)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12OC(Cl)C(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(Cl)O2"}, {"reactants": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(Cl)O2.[O-]C", "products": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(Cl)O2"}, {"reactants": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(Cl)O2", "products": "COC12OC(Cl)C(O1)C1C(=O)C12"}, {"reactants": "COC12OC(Cl)C(O1)C1C(=O)C12.[O-]C", "products": "COC12OC(Cl)C(O1)C1C2C1([O-])OC"}, {"reactants": "COC12OC(Cl)C(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2OC1(OC)OC2Cl"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1.[H+]", "products": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1"}, {"reactants": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1.O"}, {"reactants": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1"}, {"reactants": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1", "products": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1.O", "products": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1", "products": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1"}, {"reactants": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1", "products": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1"}, {"reactants": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1", "products": "COc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1.[H+]"}]}
